US07049473B2
5.0 g (37.3 mmol) of phthalide and 5.0 g (76.8 mmol) of potassium cyanide, finely ground with a mortar and under vigorous stirring, were heated to 180° C. for 3.5 h in an open round-bottom flask. In the course of this, the melt darkened in color and had solidified after the reaction time. The solid was dissolved in 50 ml of dist. H2O and the solution was extracted twice with 100 ml each time of ethyl acetate. The combined organic phases contain unconverted phthalide and were discarded. The aqueous phase was admixed with 5.0 g of FeSO4.7H2O in order to bind excess cyanide and acidified with concentrated HCl down to a pH of 2. The precipitated solid was filtered off with suction through a frit filled with kieselguhr and washed with ethyl acetate, and the filtrate was transferred to a separating funnel. After phase separation, the aqueous phase was extracted twice more with 100 ml each time of ethyl acetate, the combined organic phases were dried over MgSO4 and the solvent was removed under reduced pressure. 5.34 g (33.1 mmol, 88.7%) of o-cyanomethylbenzoic acid were obtained and were used for the following reaction without further purification.

reactant | phthalide | 37.3 mmol, 5.0 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | potassium cyanide | 76.8 mmol, 5.0 g | [C-]#N.[K+]
product | o-cyanomethylbenzoic acid | 33.1 mmol, 5.34 g, 88.7% | C(#N)CC1=C(C(=O)O)C=CC=C1 | C9H7NO2
